US05723479
In the same manner as in Reference Example 4, methyl 5-hydroxybenzofuran-2-carboxylate was reacted with 4-chloromethyl-5-methyl-2-phenyloxazole to yield methyl 5-(5-methyl-2-phenyl-4-oxazolylmethoxy)bezofuran-2-carboxylate (yield 87%), which was then recrystallized from acetone-ethyl acetate to yield colorless prisms having a melting point of 177° to 178° C.

reactant | methyl 5-hydroxybenzofuran-2-carboxylate | OC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C10H8O4
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
product | methyl 5-(5-methyl-2-phenyl-4-oxazolylmethoxy)bezofuran-2-carboxylate | yield 87% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C21H17NO5
